US07807671B2
To sodium hydride (0.20 g) taken in dry THF (15 ml), N-methyl piperazine (0.93 ml) was added under nitrogen at 0° C. 2,3-Dibromopyrazine (2 g) taken in 15 ml dry THF was added to the above mixture at 0° C. The reaction mixture was allowed to reflux for overnight and quenched with water (5 ml). The organic layer was removed under vacuum. The resulting crude mass was purified by column chromatography to afford 2-bromo-5-(4-methylpiperazin-1-yl)pyrazine as pure product.

reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | N-methyl piperazine | 0.93 ml | CN1CCNCC1 | C5H12N2
reactant | 2,3-Dibromopyrazine | 2 g | BrC1=NC=CN=C1Br | C4H2Br2N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-bromo-5-(4-methylpiperazin-1-yl)pyrazine | BrC1=NC=C(N=C1)N1CCN(CC1)C | C9H13BrN4
